US07875640B2
1-isobutyl-6,7-dihydro-1H-pyrano[4,3-d]thiazol-2(4H)-imine
Commercially available dihydro-2H-pyran-4(3H)-one (Aldrich), 2-methylpropan-1-amine (Aldrich), potassium thiocyanate (Aldrich) and iodine (EMD chemicals) were processed using the method described in Example 91A to afford the title compound. MS (ESI+) m/z 213 (M+H)+.

reactant | dihydro-2H-pyran-4(3H)-one | O1CCC(CC1)=O | C5H8O2
reactant | 2-methylpropan-1-amine | CC(CN)C | C4H11N
reactant | potassium thiocyanate | [S-]C#N.[K+]
reactant | iodine | II | I2
product | 1-isobutyl-6,7-dihydro-1H-pyrano[4,3-d]thiazol-2(4H)-imine | C(C(C)C)N1C(SC2=C1CCOC2)=N | C10H16N2OS
